US08383821B2
tert-Butyl 4-(((5-chloro-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
3′-(Bromomethyl)-5′-chlorobiphenyl-4-carbonitrile (38.3 mg, 0.12 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (30.3 mg, 0.1 mmol) were combined in dimethylformamide (2 mL) and cooled to 0° C. The reaction was treated with sodium hydride (5 mg, 0.2 mmol), stirred at 0° C. for 1 h, and at room temperature for 30 min. The reaction mixture was diluted with water and extracted with ethyl acetate (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (25% ethyl acetate/hexanes) gave 35 mg (56%). 1H-NMR (CDCl3, 300 MHz) δ 7.71 (s, 1H), 7.68 (s, 1H), 7.55 (s, 1H), 7.52 (s, 1H), 7.39 (s, 1H), 7.28-7.35 (m, 4H), 7.19-7.21 (m, 1H), 7.10-7.13 (m, 2H), 4.36 (s, 2H), 3.69-3.76 (m, 2H), 3.41 (s, 2H), 2.97-3.06 (m, 2H), 2.15-2.19 (m, 2H), 1.80-1.90 (m, 2H), 1.40 (s, 9H). Mass spec.: 517.21 (MH)+.

reactant | 3′-(Bromomethyl)-5′-chlorobiphenyl-4-carbonitrile | 0.12 mmol, 38.3 mg | BrCC=1C=C(C=C(C1)Cl)C1=CC=C(C=C1)C#N | C14H9BrClN
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 0.1 mmol, 30.3 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 0.2 mmol, 5 mg | [H-].[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl 4-(((5-chloro-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | ClC=1C=C(C=C(C1)C1=CC=C(C=C1)C#N)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C31H33ClN2O3
